US04595677
17.2 g of crude Boc-Pro-His-Pro-Phe-His-OMe are dissolved in 54 ml of MeOH, 650 ml of 0.1N NaOH are added, the whole is left to stand for 15 minutes at 25°, neutralised by the addition of 650 ml of 0.1N HCl concentratod to dryness. The residue is dissolved in 120 ml of H2O, the pH value is adjusted exactly to 6.8 and this solution is subjected in the system n-butanol/H2O to Craig partitioning over 500 stages; (K=2.8). The fractions that are pure according to thin layer chromagotraphy analysis are combined, concentrated to dryness, dissolved in H2O and lyophilised, yielding Boc-Pro-His-Pro-Phe-His-OH in amorphous form; Rf (A)=0,15; Rf (C)=0.42; Rf (E)=0.25.

reactant | Boc-Pro-His-Pro-Phe-His-OMe | 17.2 g | N1([C@H](C(=O)N[C@@H](CC2=CNC=N2)C(=O)N2[C@H](C(=O)N[C@@H](CC3=CC=CC=C3)C(=O)N[C@@H](CC3=CNC=N3)C(=O)OC)CCC2)CCC1)C(=O)OC(C)(C)C | C37H49N9O8
reactant | NaOH | 0.1N, 650 ml | [OH-].[Na+]
reactant | HCl | 0.1N, 650 ml | Cl | ClH
reactant | n-butanol H2O | C(CCC)O.O
solvent | MeOH | 54 ml | CO | CH4O
solvent | H2O | 120 ml | O | H2O
product | Boc-Pro-His-Pro-Phe-His-OH | N1([C@H](C(=O)N[C@@H](CC2=CNC=N2)C(=O)N2[C@H](C(=O)N[C@@H](CC3=CC=CC=C3)C(=O)N[C@@H](CC3=CNC=N3)C(=O)O)CCC2)CCC1)C(=O)OC(C)(C)C | C36H47N9O8
